US06544985B2
(2-Amino-4-methyl-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (4-methyl-2-nitro-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert-butyl ester (Example C36) (3.27 g, 10.2 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a pale brown solid (2.48 g, 83%).

reactant | (4-methyl-2-nitro-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert-butyl ester | 10.2 mmol, 3.27 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)C)[N+](=O)[O-])=O | C16H23N3O4
catalyst | Pd/C | [Pd] | Pd
product | (2-Amino-4-methyl-5-pyrrolidin-1-yl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCCC1)C)N)=O | C16H25N3O2
